US05023253
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl -6-[(1-methylpyrrolidin-3-yl)oxy]azirino[2',3':3,4]pyrrolo [1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg) in 2 ml of 1-methyl-3-pyrrolidinol was stirred at room temperature and under nitrogen for 30 minutes with 500 mg of a 1.6% solution of KOH in 1-methyl-3-pyrrolidinol. The reaction mixture was diluted with ether and then decomposed with dry ice. The ether was removed under reduced pressure and the residue left was isolated twice on silica gel using triethylamine as a solvent in the first isolation and 4% of triethylamine in acetone in the second isolation. In both isolation processes the pink substance was extracted from the silica gel with a mixture of triethylamine-acetone 1:3 or 1:4. The extract was concentrated under reduced pressure to give 50 m (42%) of the title compound, having no definite melting point and providing the following analysis:

reactant | mitomycin A | 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
solvent | 1-methyl-3-pyrrolidinol | 2 ml | CN1CC(CC1)O | C5H11NO
solvent | ether | CCOCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl -6-[(1-methylpyrrolidin-3-yl)oxy]azirino[2',3':3,4]pyrrolo [1,2-a]indole-4,7-dione carbamate | 42% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OC1CN(CC1)C)C)=O)CC1C2N1)OC | InChI=1S/C19H25N3O5.CH3NO2/c1-9-15(24)14-13(16(25)17(9)27-10-4-5-21(2)6-10)11(8-23)19(26-3)18-12(20-18)7-22(14)19;2-1(3)4/h10-12,18,20,23H,4-8H2,1-3H3;2H2,(H,3,4)
